* source SYNCHRONOUS BUCK_NEW
L_L2         N00508 N104989  4.7uH  
R_Rload6         N00508 N105255  1000 TC=0,0 
R_Rload7         N00508 N105267  200k TC=0,0 
R_Rload8         N00508 N105279  200k TC=0,0 
C_C10         N00508 N104996  10u  TC=0,0 
V_V4         N00382 0 DC 0 AC 0
+PULSE 0 400 350u 2000u 1u 10000 10000
V_V5         N41977 N00508 DC 0 AC 0
+PULSE 0 14 0 2u 1u 10000 20000
V_V6         N55997 0 DC 0 AC 0
+PULSE 0 12 0 2u 1u 10000 20000
V_V7         N77423 0 DC 0 AC 0
+PULSE 0 5 0u 1n 1n 4.98u 10u
L_L3         0 N56082  4.7uH  
C_C12         0 N56075  10u  TC=0,0 
R_Rload11         0 N56822  22 TC=0,0 
R_Rload13         0 N106523  200k TC=0,0 
R_Rload12         0 N106519  1000 TC=0,0 
R_Rload14         0 N106527  200k TC=0,0 
X_U3         N70217 N64230 0 N78009 N64141 N00508 ISO7710 
L_L4         N00508 N56822  70uH  
C_C14         0 N56822  100u  TC=0,0 
V_V8         N70217 0 DC 0 AC 0
+PULSE 0 5 10n 2u 1u 10000 20000
X_U4         N70217 N77423 0 N70217 N77530 0 ISO7710 
R_Rload17         N83421 N00382  1 TC=0,0 
V_V9         N64230 0 DC 0 AC 0
+PULSE 0 5 5u 1n 1n 4.98u 10u
C_C15         N106107 0  10u  TC=0,0 
R_Rload18         0 N56249  20k TC=0,0 
R_Rload19         N00508 N104983  20k TC=0,0 
X_U5         N55997 N106107 N77530 N56249 N56082 N56075 N106519 N106523 N106527
+  0 0 N00508 LMG3522R030 PARAMS:  TEMP_CELSIUS=160
X_U6         N41977 N78009 N64141 N104983 N104989 N104996 N105255 N105267
+  N105279 N00508 N00508 N83421 LMG3522R030 PARAMS:  TEMP_CELSIUS=160
